US04435566
The starting material, 2-amino-4-chloro-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine, was prepared in the following manner. 56.4 g of ethyl 3-oxotetrahydrothiopyran-2-carboxylate was added to a solution of 6.9 g of sodium metal in 300 ml of ethanol at room temperature while stirring. After stirring overnight, water was added to the mixture, and the mixture was rendered acidic with acetic acid. The precipitated crystals were filtered, washed with water and then with a small amount of isopropyl alcohol and air-dried to obtain 45 g of 2-amino-4-hydroxy-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine as colorless needles having a melting point above 300° C.

reactant | 2-amino-4-chloro-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | NC=1N=C(C2=C(N1)CCCS2)Cl | C7H8ClN3S
reactant | ethyl 3-oxotetrahydrothiopyran-2-carboxylate | 56.4 g | O=C1C(SCCC1)C(=O)OCC | C8H12O3S
reactant | sodium | 6.9 g | [Na] | Na
reactant | water | O | H2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-amino-4-hydroxy-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | 45 g | NC=1N=C(C2=C(N1)CCCS2)O | C7H9N3OS
